US06552143B2
Production of 1-(1-Acryloyloxy-1-methylpropyl)adamantane [2-5 (acrylate)]
A total of 10 mmole of acryloyl chloride was added dropwise to a mixture of 10 mmole of the above-prepared α-ethyl-α-methyl-1-adamantanemethanol, 10 mmole of triethylamine and 40 ml of tetrahydrofuran over about 30 minutes. After the completion of addition, the resulting mixture was stirred at room temperature for 6 hours. After the addition of water, the reaction mixture was concentrated, and the concentrate was subjected to column chromatography on a silica gel to thereby yield the title compound in a yield of 74%.

reactant | acryloyl chloride | 10 mmole | C(C=C)(=O)Cl | C3H3ClO
reactant | α-ethyl-α-methyl-1-adamantanemethanol | 10 mmole | C(C)C(O)(C12CC3CC(CC(C1)C3)C2)C | C14H24O
reactant | triethylamine | 10 mmole | C(C)N(CC)CC | C6H15N
reactant | tetrahydrofuran | 40 ml | O1CCCC1 | C4H8O
solvent | water | O | H2O
product | 1-(1-Acryloyloxy-1-methylpropyl)adamantane | yield of 74% | C(C=C)(=O)OC(CC)(C)C12CC3CC(CC(C1)C3)C2 | C17H26O2
